US05763702
In a three-necked flask provided with a stirring device, a reflux condenser, and a thermometer, 13.90 g (66 m.mols) of pentafluorobenzoic acid, 40 g of ethylene glycol, and 0.82 g (11 m.mols) of calcium hydroxide were placed and heated and the ensuant reaction was continued for 6 hours, with the reaction temperature gradually lowered meanwhile from the initial level of 140° C. to the terminal level of 110° C. After the reaction was completed, pentafluorobenzene was isolated by distillation. By the distillation, pentafluorobenzene was obtained in an amount of 8.02 g (48 m.mols), i.e. in a yield of 72.8%. By gas chromatography, the product was found to have purity of not less than 99.0%. The solution remaining after the distillation could be recycled through the subsequent cycle of reaction, though the pentafluorobenzoic acid as the starting material remained in the solution.

reactant | pentafluorobenzoic acid | 13.90 g | FC1=C(C(=C(C(=C1C(=O)O)F)F)F)F | C7HF5O2
reactant | calcium hydroxide | 0.82 g | [OH-].[Ca+2].[OH-]
solvent | ethylene glycol | 40 g | C(CO)O | C2H6O2
product | pentafluorobenzene | FC=1C(=C(C(=C(C1)F)F)F)F | C6HF5
